US04707473
A mixture of 3.9 g (12.3 mmoles) of 4-formyl-N-(α-phenylethyl)phenoxazine, 250 ml of ethanol and 0.594 g (18.5 mmoles) of sodium borohydride was heated at 40° C. under stirring during 15 minutes. The solvent was then removed under reduced pressure and the residue diluted with water and extracted with ethyl acetate (2×100 ml). The combined extracts were dried and the solvent removed under reduced pressure. The oily residue (3.5 g) was percolated through a short column of silica gel using ether as the solvent, to yield 4-hydroxymethyl-N-(α-phenylethyl)phenoxazine, as an oil

reactant | 4-formyl-N-(α-phenylethyl)phenoxazine | 12.3 mmoles, 3.9 g | C(=O)C1=CC=CC=2N(C3=CC=CC=C3OC12)C(C)C1=CC=CC=C1 | C21H17NO2
reactant | sodium borohydride | 18.5 mmoles, 0.594 g | [BH4-].[Na+]
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | 4-hydroxymethyl-N-(α-phenylethyl)phenoxazine | OCC1=CC=CC=2N(C3=CC=CC=C3OC12)C(C)C1=CC=CC=C1 | C21H19NO2
